US07615557B2
0.500 g (3.18 mmol) of ethyl piperidine-4-carboxylate, 0.866 g (4.77 mmol) of 2-chloro-5-trifluoromethylpyridine and 0.483 g (4.77 mmol) of triethylamine were reacted in dimethyl sulfoxide at 60° C. overnight. The reaction mixture was partitioned between ethyl acetate and water, the organic layer was washed with saturated sodium chloride, dried over magnesium sulfate, filtered and evaporated to dryness to yield crude ethyl 1-[5-(trifluoromethyl)pyridin-2-yl]piperidine-4-carboxylate.

reactant | ethyl piperidine-4-carboxylate | 3.18 mmol, 0.500 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | 2-chloro-5-trifluoromethylpyridine | 4.77 mmol, 0.866 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | triethylamine | 4.77 mmol, 0.483 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 1-[5-(trifluoromethyl)pyridin-2-yl]piperidine-4-carboxylate | FC(C=1C=CC(=NC1)N1CCC(CC1)C(=O)OCC)(F)F | C14H17F3N2O2
